Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1],2.79002705813
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10],3.7083948584699993
[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.93870170206
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])[H:10].[H:1][O:2][C:3],1.8319809748
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]1[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12](=[O:11])[H:13],-1.44785036993
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5],1.67776780681
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-1.7352422492099997
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:14]([H:15])([H:16])[H:17],1.36885703195
[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](\[O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],1.2184750860100002
[H:10].[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.78533995234
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6],0.863298173908
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-7.30923755895
[C:2]#[C:3][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1][C:4]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-7.403916824069999
[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4],1.7066491380200002
[C:3]([H:4])=[C:5]([H:6])[C:7]#[C:8][O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10],-6.75118534844
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],8.280076736189999
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.99660090659
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],5.45623577228
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-1.28218157344
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.3475651209000015
[H:14].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.2762055956800005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.77023464916
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.1326347264
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10],5.02222914352
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.71028989567
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8],4.64730050829
[H:1][C:2]=[C:3]1[O:4][C:5]=[C:6]([H:7])[O:8]1>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[O:8],0.17325071891
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3],1.32385996176
